US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 93, Part A, 4-anisoyl chloride (2.2 mmol) and N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (1.8 mmol) yielded 441 mg (61%) of the title compound.

reactant | 4-anisoyl chloride | 2.2 mmol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 1.8 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
product | N1-(4-Methoxybenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 441 mg, 61% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C25H26N2O3
